US08119663B2
Step a): [3-Methyl-4-(trifluoromethoxy)phenyl]boronic acid
At −78° C., 8.5 ml (1.4 g, 21.1 mmol) of a 2.5M solution of n-butyllithium in hexane were initially charged in 30 ml of THF. 4.9 g (19.2 mmol) of 4-bromo-2-methyl(trifluoromethoxy)benzene were dissolved in 15 ml of THF and slowly added dropwise. 3.0 g (28.8 mmol) of trimethylboronic acid were then added dropwise. The mixture was stirred at −78° C. for 2 h, and 11 ml of 2 N hydrochloric acid were then added. The mixture was allowed to warm to RT, and the organic phase was separated off. The solvent was removed under reduced pressure and the residue was recrystallized from n-heptane. Yield: 3.3 g (78% of theory)

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromo-2-methyl(trifluoromethoxy)benzene | 19.2 mmol, 4.9 g | BrC1=CC(=C(C=C1)OC(F)(F)F)C | C8H6BrF3O
reactant | trimethylboronic acid | 28.8 mmol, 3.0 g | COB(OC)C | C3H9BO2
reactant | hydrochloric acid | 2 N, 11 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | [3-Methyl-4-(trifluoromethoxy)phenyl]boronic acid | CC=1C=C(C=CC1OC(F)(F)F)B(O)O | C8H8BF3O3
